US06794402B2
To a stirred solution of 6-{trans-4-[3-phenylbutylamino]-cyclohexyl}-3H-benzoxazol-2-one (638 mg, 1.75 mmol) in MeOH (10 mL) containing water (0.5 mL) was added p-formaldehyde (263 mg, 8.76 mmol). The reaction mixture was stirred for 2 hours, and NaBH4 (519 mg, 2.45 mmol) was added. The reaction mixture was stirred for 3 hours. The reaction was treated with solid NaOH until a clear solution resulted and concentrated under reduced pressure. Purification by flash chromatography (95:5:1 CH2Cl2:MeOH:NH4OH) gave 6-[trans-4-(methyl-3-phenylbutylamino)cyclohexyl]-3H-benzoxazol-2-one (231 mg, 35%), as a white solid: mp 61-70° C.; IR (KBr): 2928, 1774 cm−1; 1H NMR (500 MHz, DMSO-d6): δ 7.29-7.12 (m, 7H), 6.97 (s, 1H), 2.76 (m, 1H), 2.49-2.26 (m, 5H), 2.14 (s, 3H), 1.77 (m, 4H), 1.67 (m, 2H), 1.43 (m, 2H), 1.27 (m, 2H), 1.17 (d, J=4 Hz, 3H); API-MS (m/z): 379 [M+H]+; HPLC: method A, 5.99 minutes (94.3%); HPLC: method B, 10.97 minutes (>99%); Anal. Calcd for C24H30N2O2.0.5H2O: C, 74.39; H, 8.06; N, 7.23. Found: C, 74.41; H, 7.90; N, 7.31.

reactant | 6-{trans-4-[3-phenylbutylamino]-cyclohexyl}-3H-benzoxazol-2-one | 1.75 mmol, 638 mg | C1(=CC=CC=C1)C(CCN[C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1)C | C23H28N2O2
reactant | water | 0.5 mL | O | H2O
reactant | NaBH4 | 2.45 mmol, 519 mg | [BH4-].[Na+]
reactant | NaOH | [OH-].[Na+]
reactant | MeOH | 10 mL | CO | CH4O
product | 6-[trans-4-(methyl-3-phenylbutylamino)cyclohexyl]-3H-benzoxazol-2-one | 231 mg, 35% | CN([C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1)CCC(C)C1=CC=CC=C1 | C24H30N2O2
